US05288726
2-Chloro-α-trifluoroacetylbenzyl bromide
2.0 g (9.0 mmole) of 1-(2-chlorophenyl)-3,3,3-trifluoro-2-propanone were dissolved in 30 ml of carbon tetrachloride, and then 0.46 ml (9.0 mmole) of bromine was added to the solution, which was then stirred at room temperature for 10 hours. At the end of this time, sodium hydrogensulfite was added to the reaction mixture, and the mixture was stirred at room temperature for 15 minutes, after which insolubles were removed by filtration. The filtrate was concentrated by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography, using a 10:2 by volume mixture of toluene and ethyl acetate as the eluent, to give 0.87 g of the title compound as a yellow oil.

reactant | 1-(2-chlorophenyl)-3,3,3-trifluoro-2-propanone | 9.0 mmole, 2.0 g | ClC1=C(C=CC=C1)CC(C(F)(F)F)=O | C9H6ClF3O
reactant | bromine | 9.0 mmole, 0.46 ml | BrBr | Br2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Chloro-α-trifluoroacetylbenzyl bromide | 0.87 g | ClC1=C(C(C(C(F)(F)F)=O)Br)C=CC=C1 | C9H5BrClF3O
